US06528543B1
A solution of 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (200 mg, 0.53 mmol) and methyl isocyanate (61 mg, 1.07 mmol) in toluene (1 mL) was heated under reflux for 24 h. The reaction mixture turned very cloudy with the forming of a white precipitate. The reaction mixture was allowed to cool to 25° C. and then treated with hexanes. The reaction mixture was placed in the freezer for 1 h then filtered. The white solid was washed with cold hexanes to afford 1-[2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea (100 mg, 44%) as a white solid: mp 259-260° C.; FAB-HRMS m/e calcd for C17H23BrN2O4S (M+H)+431.0641, found 431.0646.

reactant | 2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 0.53 mmol, 200 mg | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)N)CC1CCCC1 | C15H20BrNO3S
reactant | methyl isocyanate | 1.07 mmol, 61 mg | CN=C=O | C2H3NO
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(3-bromo-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea | 100 mg, 44% | BrC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC(=O)NC)CC1CCCC1 | C17H23BrN2O4S
